US07291632B2
Preparation 15. 2,4-Difluoro-N-(4-fluoro-3-nitrophenyl)benzamide
Using a method similar to Preparation 13, using 4-fluoro-3-nitroaniline (1.0 g, 6.4 mmol), dioxane (20 mL), and 2,4-difluorobenzoyl chloride (1.46 g, 8.3 mmol) gives the title intertermediate (1.6 g, 84% yield): mass spectrum (ion spray): m/z=297.0 (M+1).

reactant | 4-fluoro-3-nitroaniline | 6.4 mmol, 1.0 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | 2,4-difluorobenzoyl chloride | 8.3 mmol, 1.46 g | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2,4-Difluoro-N-(4-fluoro-3-nitrophenyl)benzamide | 84% yield | FC1=C(C(=O)NC2=CC(=C(C=C2)F)[N+](=O)[O-])C=CC(=C1)F | C13H7F3N2O3
